US07198791B2
This example shows the design and synthesis of a linear peptide based on loop 1 of domain III of AMA-1. A 49 residue peptide comprising residues AMA-1446–490, with three additional amino acids (GGC) at the N-terminus, and one additional G residue at the C-terminus (FIG. 1), was prepared by solid phase peptide synthesis on Sieber amide resin (0.5 mmol/g) using Fmoc chemistry and an ABI433A peptide synthesizer. The pseudoproline unit Fmoc-IleSer(ψMe,Mepro)-OH was used in place of Ile39 and Ser40. After assembly, the peptide was cleaved from a portion of the resin using TFA:H2O:EDT:TIS (92.5:2.5:2.5:2.5) for 3.5 h at room temperature. After concentration in vacuo the peptide was precipitated with diethyl ether, and purified by reverse-phase HPLC (C18 column) using a gradient of MeCN in water (25% to 50%) with 0.1% TFA over 15 min. The purity was >95% by analytical HPLC. The constitution was confirmed by amino acid analysis and electrospray mass spectrometry (Table-1). Another portion of the resin carrying the intact peptide chain (ca. 60 μmol) was treated with PE-succ-OH (130 mg, 160 μmol) (FIG. 1), HATU (61 mg, 160 μmol), HOAt (22 mg, 160 μmol), and iPr2EtN (82 μl) in DMF:CH2Cl2 (4 ml, 1:2) for 18 h at room temp. After washing the resin with DMF (4×) and CH2C12(4×) the peptide conjugate was cleaved from the resin with 1% TFA in CH2Cl2 (4×4 ml). The combined organic fractions were concentrated in vacuo and the conjugate was redissolved in TFA:H2O:EDT:TIS (92.5:2.5:2.5:2.5) for 4 h at room temp. The TFA was then removed in vacuo and AMA49-L1was precipitated with iPr2O and then purified by HPLC on a C4 column using a gradient of 10 to 100% MeCN/water with 0.1% TFA. The purity was >95% by analytical HPLC. The constitution was confirmed by amino acid analysis and electrospray mass spectrometry (Table-1). The presence of two free thiols was proven by an Ellman test, and by reaction with excess N-ethylmaleimide (NEM) and detection of the bis-NEM derivative by HPLC-MS. AMA49-C1 was prepared in the same way except that sPE-succ-OH was used (FIG. 1), and in the final step the conjugate (4 mg) was oxidized in ammonium acetate buffer (50 mM, pH 8) and 2,2,2-trifluoroethanol (TFE) (1:1, 100 ml) for 4 days at room temperature. After addition of AcOH (100 μl) and lyophilization, AMA49-C1 was purified by HPLC as above for AMA49-L1. The formation of the disulfide bridge was confirmed by a negative Ellman test and by attempted derivatization with NEM, which gave no bis NEM-derivative by HPLC-MS. For the synthesis of AMA49-L2, the dithiol (6 mg) was alkylated with iodoacetamide (43μmol) in a mixture (5:4) of phosphate buffer (0.1 M, pH 7.5) and TFE. The AMA49-L2 was purified by HPLC on a C4 column using a gradient of 10 to 100% MeCN/water with 0.1% TFA. The purity was >95% by analytical HPLC. Electrospray mass spectrometry showed the expected mass (Table 1).

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | HATU | 160 μmol, 61 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOAt | 160 μmol, 22 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | iPr2EtN | 82 μl | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2,2,2-trifluoroethanol | 100 ml | FC(CO)(F)F | C2H3F3O
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ammonium acetate | 50 mM, pH 8 | C(C)(=O)[O-].[NH4+]
solvent | AcOH | 100 μl | CC(=O)O | C2H4O2
solvent | CH2Cl2 | 4 ml | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | NEM | C(C)N1C(C=CC1=O)=O | C6H7NO2
